US07348438B2
5,6-Dichloro-1-methanesulfonylmethyl-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
Oxone® (614.8 mg, 1 mmol) was dissolved in water (10 ml) and the pH was adjusted to pH7 with NaHCO3. To the solution was then added tetrabutylammonium hydrogen sulfate (20 mg). The resulting solution was added at room temperature to a solution of 5,6-dichloro-1-methylsulfanylmethyl-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole, prepared as in Example 47, (109.6 mg, 0.33 mmol) in EtOAc (4 mL). The Oxone® solution (608.87 mg) was added until the reaction completed. The resulting mixture was washed with 1N NaOH, then extracted with EtOAc. The organic layer was washed with 15% NaCl, dried over MgSO4 and the solvent was distilled under reduced pressure to yield the title compound as a yellow solid.

reactant | Oxone | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 5,6-dichloro-1-methylsulfanylmethyl-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CSC)C=C1Cl | C11H9Cl2F3N2S
solvent | water | 10 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 20 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
product | 5,6-Dichloro-1-methanesulfonylmethyl-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CS(=O)(=O)C)C=C1Cl | C11H9Cl2F3N2O2S
